US07838188B2
(2) Synthesis of p-dibenzyl-aminophenethyl acrylate
In a three-aperture flask, 10.5 g (33 mmol) of p-dibenzyl-aminophenethyl alcohol, 9.51 g (132 mmol) of acrylic acid, 0.56 g (3.3 mmol) of p-toluene sulfonate, and 30 mL of dehydrated toluene were poured, and the mixture was heated at 80° C. under an argon atmosphere with stirring. To the reaction solution, 3.8 g (18.2 mmol) of dicyclohexylcarbodimide and 2.5 g (16.5 mmol) of 4-pyrrolidinopyridine were added, and the reaction solution was further heated with stirring for 5 hours. The reaction solution was cooled to the room temperature and then diluted with toluene, followed by washing with water three times. The toluene solution was dried with anhydrous magnesium sulfate, and then the solvent was distilled away to purify the toluene solution by silica gel chromatography using a mixture solvent of hexane/ethyl acetate (4/1) as an eluent to thereby synthesize 4.05 g (yield: 33% by mass) of p-dibenzyl-aminophenethyl acrylate of the exemplified compound No. 23 represented by the following structural formula.

reactant | p-dibenzyl-aminophenethyl alcohol | 33 mmol, 10.5 g | C(C1=CC=CC=C1)C1(CC(N)O)CC=C(C=C1)CC1=CC=CC=C1 | C22H25NO
reactant | acrylic acid | 132 mmol, 9.51 g | C(C=C)(=O)O | C3H4O2
reactant | p-toluene sulfonate | 3.3 mmol, 0.56 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | dicyclohexylcarbodimide | 18.2 mmol, 3.8 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-pyrrolidinopyridine | 16.5 mmol, 2.5 g | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | p-dibenzyl-aminophenethyl acrylate | C(C=C)(=O)OC(CC1(CC=C(C=C1)CC1=CC=CC=C1)CC1=CC=CC=C1)N | C25H27NO2
